US09029378B2
Synthesis of example 17: 1-((2-(4-Methylpiperidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-(quinolin-4-yl)urea
Phenyl quinolin-4-ylcarbamate (crude 139 mg, 0.53 mmol) and (2-(4-methylpiperidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methanamine (144 mg, 0.53 mmol) were dissolved in dimethyl sulfoxide. Then triethylamine (0.15 mL, 1.06 mmol) was added to it. The mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure.

reactant | Phenyl quinolin-4-ylcarbamate | N1=CC=C(C2=CC=CC=C12)NC(OC1=CC=CC=C1)=O | C16H12N2O2
reactant | (2-(4-methylpiperidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.53 mmol, 144 mg | CC1CCN(CC1)C1=NC(=CC=C1CN)C(F)(F)F | C13H18F3N3
reactant | triethylamine | 1.06 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-((2-(4-Methylpiperidin-1-yl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-(quinolin-4-yl)urea | CC1CCN(CC1)C1=NC(=CC=C1CNC(=O)NC1=CC=NC2=CC=CC=C12)C(F)(F)F | C23H24F3N5O
